US09388189B2
c) (S)-4-Amino-N-(3,5-dimethoxyphenyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide
(S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (200 mg, 0.75 mmol), 4-amino-6-chloro-N-(3,5-dimethoxyphenyl)pyrimidine-5-carboxamide (575 mg, 1.23 mmol), DIEA (650 μl, 3.73 mmol) and cesium fluoride (227 mg, 1.49 mmol) were suspended in tert-butanol (7 ml) and the mixture was heated overnight at 120° C. in a sealed tube. The reaction mixture was diluted with ethyl acetate and washed with water and brine. After evaporation of the solvent, the residue (720 mg, 33% purity, 58% yield) was used in the next synthetic step without further purification.

reactant | (S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.75 mmol, 200 mg | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C15H16N4O
reactant | 4-amino-6-chloro-N-(3,5-dimethoxyphenyl)pyrimidine-5-carboxamide | 1.23 mmol, 575 mg | NC1=NC=NC(=C1C(=O)NC1=CC(=CC(=C1)OC)OC)Cl | C13H13ClN4O3
reactant | DIEA | 3.73 mmol, 650 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | cesium fluoride | 1.49 mmol, 227 mg | [F-].[Cs+]
solvent | tert-butanol | 7 ml | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-4-Amino-N-(3,5-dimethoxyphenyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide | 58% yield | NC1=NC=NC(=C1C(=O)NC1=CC(=CC(=C1)OC)OC)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C28H28N8O4
